US07125895B1
N-(1-(4-Chlorobenzyl)-piperazine-4-carboxamido)glycine benzamide (Compound 36)
Sodium N-(1-(4-chlorobenzyl)-piperazine-4-carboxamido)glycinate (20 mg, 0.060 mmol) and aniline (6.2 mg, 0.66 mmol) were dissolved in CHCl3 (1 mL). HBTU (25 mg, 0.066), HOBt (8.1 mg, 0.066 mmol) and Et3N (17 μL, 0.12 mmol) were added and the reaction mixture was stirred for 16 hr. The solvent was removed and the compound was dissolved into CH2Cl2 (2 mL). The organic layer was washed with 2N aqueous NaOH solution (2N mL), brine (1×1 mL) and concentrated. Purification via RPLC/MS afforded the desired material (6.4 mg, 21%). ESI/MS 385 (M++H, C26H24ClN3O2).

reactant | Sodium N-(1-(4-chlorobenzyl)-piperazine-4-carboxamido)glycinate | 0.060 mmol, 20 mg | ClC1=CC=C(CN2CCN(CC2)C(=O)NNCC(=O)[O-])C=C1.[Na+]
reactant | aniline | 0.66 mmol, 6.2 mg | NC1=CC=CC=C1 | C6H7N
reactant | HBTU | 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.066 mmol, 8.1 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.12 mmol, 17 μL | CCN(CC)CC | C6H15N
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(1-(4-Chlorobenzyl)-piperazine-4-carboxamido)glycine benzamide | 6.4 mg, 21% | C(C1=CC=CC=C1)(=O)N.ClC1=CC=C(CN2CCN(CC2)C(=O)NNCC(=O)O)C=C1 | InChI=1S/C14H19ClN4O3.C7H7NO/c15-12-3-1-11(2-4-12)10-18-5-7-19(8-6-18)14(22)17-16-9-13(20)21;8-7(9)6-4-2-1-3-5-6/h1-4,16H,5-10H2,(H,17,22)(H,20,21);1-5H,(H2,8,9)
